US07728025B2
(Step 3) Production of 4-(4-fluoro-phenoxy)-6-(pyridin-3-yloxy)-2-[1,2,4]triazol-1-yl-1H-benzimidazole
5.0 mg of sodium hydride was added to a dimethylformamide (0.5 ml) solution of 16 mg of 4-(4-fluoro-phenoxy)-2-methanesulfonyl-6-(pyridin-3-yloxy)-1H-benzimidazole, and then 10.4 mg of [1,2,4]triazole was added to it, and the reaction liquid was stirred overnight at 160° C. The reaction liquid was diluted with ethyl acetate, washed with water and saturated saline in order, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through partitioning thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (by Merck), ethyl acetate) to obtain the entitled compound.

reactant | sodium hydride | 5.0 mg | [H-].[Na+]
reactant | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | 4-(4-fluoro-phenoxy)-2-methanesulfonyl-6-(pyridin-3-yloxy)-1H-benzimidazole | 16 mg | FC1=CC=C(OC2=CC(=CC=3NC(=NC32)S(=O)(=O)C)OC=3C=NC=CC3)C=C1 | C19H14FN3O4S
reactant | [1,2,4]triazole | 10.4 mg | N1N=CN=C1 | C2H3N3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4-fluoro-phenoxy)-6-(pyridin-3-yloxy)-2-[1,2,4]triazol-1-yl-1H-benzimidazole | FC1=CC=C(OC2=CC(=CC=3NC(=NC32)N3N=CN=C3)OC=3C=NC=CC3)C=C1 | C20H13FN6O2
